US04136165
230 gm (1.32 mol) of anisoyl chloride were added drop by drop under agitation and cooling to a mixture of 316 gm (5.28 mol) of n-propanol and 300 ml of pyridine. The mixture was subsequently heated to 110° C. for three hours and then poured into a mixture of ice/water. The product was neutralized under cooling with half concentrated hydrochloric acid and extracted with ether. After drying, the ether phase was evaporated and the residue was fractionally distilled. The n-propyl anisate obtained had the following values:

reactant | anisoyl chloride | 1.32 mol, 230 gm | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | n-propanol | 5.28 mol, 316 gm | C(CC)O | C3H8O
reactant | hydrochloric acid | Cl | ClH
reactant | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | n-propyl anisate | C(C1=CC=C(C=C1)OC)(=O)OCCC | C11H14O3
